US08729073B2
To a stirred suspension of sodium hydride (65 mg 60% dispersion in mineral oil, 1.63 mmol) in DMF (3 ml), cooled to 0-5° C., a solution of morpholin-3-one (91 mg, 0.91 mmol) in DMF (3 ml) was added dropwise. The mixture was stirred at room temperature for 3 hrs. Then, a solution of 3-(2-chloroethoxy)-5-methyl-1-(naphthalen-2-yl)-1H-pyrazole (200 mg, 0.7 mmol) in DMF (4 ml) was added and the mixture was heated to 50° C. for 14 hrs. The reaction mixture was cooled, water (2 ml) added dropwise, and it was evaporated to dryness in vacuum. The resulting residue was partitioned between dichloromethane and water. The organic layer was washed with water, dried over Na2SO4, filtered and evaporated giving 223 mg of crude residue, which was purified by a silica gel column chromatography (eluent: ethyl acetate) and 4-(2-(5-methyl-1-(naphthalen-2-yl)-1H-pyrazol-3-yloxy)ethyl)morpholin-3-one (192 mg, 78%) was obtained as an amorphous white solid.

reactant | sodium hydride | 1.63 mmol, 65 mg | [H-].[Na+]
reactant | morpholin-3-one | 0.91 mmol, 91 mg | N1C(COCC1)=O | C4H7NO2
reactant | 3-(2-chloroethoxy)-5-methyl-1-(naphthalen-2-yl)-1H-pyrazole | 0.7 mmol, 200 mg | ClCCOC1=NN(C(=C1)C)C1=CC2=CC=CC=C2C=C1 | C16H15ClN2O
reactant | water | 2 ml | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 4-(2-(5-methyl-1-(naphthalen-2-yl)-1H-pyrazol-3-yloxy)ethyl)morpholin-3-one | 192 mg, 78% | CC1=CC(=NN1C1=CC2=CC=CC=C2C=C1)OCCN1C(COCC1)=O | C20H21N3O3
